US05661160
Synthesis of 8-[2-[3-(3,4-dichloro-phenyl)-1-(2,6-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-phenyl-1,3,8-triaza-spiro[4.5]decane-4-one (027F145).
2-[1-(2,6-Dimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl methanesulfonate (200 mg, 0.398 mmol), and 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (100 mg, 0.432 mmol) were dissolved in THF/H2O (4 mL/1 mL) and treated with potassium carbonate (110 mg, 0.796 mmol, 2 eq.) at reflux for 22 hours. The solution was concentrated in vacuo and the aqueous phase was extracted (3×) with dichloromethane. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (40 g) with a gradient from ethyl acetate to 10% methanol in dichloromethane to give 130 mg (51%) of the title compound.

reactant | 2-[1-(2,6-Dimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl methanesulfonate | 0.398 mmol, 200 mg | CS(=O)(=O)OCCC1(CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl | C22H25Cl2NO6S
reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 0.432 mmol, 100 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | potassium carbonate | 0.796 mmol, 110 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | THF H2O | 4 mL | C1CCOC1.O
product | 8-[2-[3-(3,4-dichloro-phenyl)-1-(2,6-dimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-phenyl-1,3,8-triaza-spiro[4.5]decane-4-one | 130 mg, 51% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)CCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C34H38Cl2N4O4
